US07067517B2
c) 4-(2-Pyridin-2-yl-acetyl)-piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
Triethylamine (0.026 ml) was added to a stirred solution of (pyridin-2-yl)acetic acid hydrochloride (0.033 g, 0.19 mmol) in DMF (2.5 ml) at 0° C. 1-Hydroxy-benzotriazole containing 8% of water (0.034 g) and then 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.044 g) was added and the mixture was stirred for 50 min. Piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester hydrochloride (0.070 g) in a mixture of DMF (1 ml) and triethylamine (0.032 ml) was added and stirring was continued over night at room temperature. The solvent was removed in vacuum and the residue was partitioned between dichloromethane (10 ml) and water (10 ml). The organic phase was washed with water (10 ml), dried over sodium sulfate, filtered and evaporated. The residue was triturated with etherpetroleumsether 1:1 and the (2+1 ml). The residue was dried to give the title compound. White solid, m.p. 143–146° C.; HPLC-MS m/z: IR (KBr) □ 1732 (C═O), 1643 (C═O).

reactant | (pyridin-2-yl)acetic acid hydrochloride | 0.19 mmol, 0.033 g | Cl.N1=C(C=CC=C1)CC(=O)O
reactant | 1-Hydroxy-benzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.044 g | Cl.CN(CCCN=C=NCC)C
reactant | Piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester hydrochloride | 0.070 g | Cl.FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCNCC1)(F)F
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.032 ml | C(C)N(CC)CC | C6H15N
solvent | Triethylamine | 0.026 ml | C(C)N(CC)CC | C6H15N
solvent | water | 0.034 g | O | H2O
product | 4-(2-Pyridin-2-yl-acetyl)-piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCN(CC1)C(CC1=NC=CC=C1)=O)(F)F | C24H21F3N4O4
